US05919779
To a mixture of lithium diisopropylamide (1.5M in cyclohexane, 43 mL) and tetrahydrofuran (60 mL) cooled to -70° C. was added 2-fluoropyridine (6.0 mL) at such a rate that the temperature remained below -70° C. After 1.5 hours, tributyltin chloride (15 mL) was added, and the mixture was allowed to warm to room temperature. The mixture was diluted with hexane, washed with water, dried, filtered, and evaporated. Chromatography of the residue over silica gel (cyclohexane/ethyl acetate 98/2) gave 2-fluoro-3-tributylstannylpyridine (17 g).

reactant | lithium diisopropylamide | 1.5M, 43 mL | C(C)(C)[N-]C(C)C.[Li+]
reactant | tetrahydrofuran | 60 mL | O1CCCC1 | C4H8O
reactant | 2-fluoropyridine | 6.0 mL | FC1=NC=CC=C1 | C5H4FN
reactant | tributyltin chloride | 15 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | hexane | CCCCCC | C6H14
product | 2-fluoro-3-tributylstannylpyridine | 17 g | FC1=NC=CC=C1[Sn](CCCC)(CCCC)CCCC | InChI=1S/C5H3FN.3C4H9.Sn/c6-5-3-1-2-4-7-5;3*1-3-4-2;/h1-2,4H;3*1,3-4H2,2H3;
